US06583135B2
10-[2-(Cyclopropylmethoxy)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
Following the procedure for the preparation of 10-(2-propoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole and substituting (bromomethyl)cyclopropane for 1-iodopropane while making non-critical variations the title compound was obtained as 74 mg (14%) of a brown oil: 1H NMR (400 MHz, CDCl3) δ 7.92 (br s, 1H), 7.29-7.21 (m, 2H), 7.12 (d, J=8.0 Hz, 1H), 7.07-7.03 (m, 1H), 6.98-6.94 (m, 1H), 6.92 (d, J=8.2 Hz, 1H), 6.86 (d, J=7.1 Hz, 1H), 3.70 (d, J=6.3 Hz, 2H), 3.01-2.95 (m, 2H), 2.85-2.73 (m, 4H), 2.37-2.31 (m, 2H), 0.95-0.93 (m, 1H), 0.30-0.25 (m, 2H), 0.00-(-0.03) (m, 2H); HRMS (FAB) calcd for C22H24N2O+H1: 333.1967 found 333.1955.

reactant | 10-(2-propoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | C(CC)OC1=C(C=CC=C1)C=1C=2C3=C(NC2C=CC1)CCNCC3 | C21H24N2O
reactant | 1-iodopropane | ICCC | C3H7I
product | 10-[2-(Cyclopropylmethoxy)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | C1(CC1)COC1=C(C=CC=C1)C=1C=2C3=C(NC2C=CC1)CCNCC3 | C22H24N2O
